US04822805
To a solution of 2-(2-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole (0.8 g) in tetrahydrofuran (10 ml) was added methyl isothiocyanate (0.33 ml) at ambient temperature. The reaction mixture was stirred at ambient temperature for one hour, and refluxed for 20 hours. The resulting precipitate was collected by filtration, and washed with tetrahydrofuran and diethyl ether to give 4-methyl-2-[2-(3-methylthioureido)phenyl]-5-(3-pyridyl)imidazole (0.71 g).

reactant | 2-(2-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.8 g | NC1=C(C=CC=C1)C=1NC(=C(N1)C)C=1C=NC=CC1 | C15H14N4
reactant | methyl isothiocyanate | 0.33 ml | CN=C=S | C2H3NS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-methyl-2-[2-(3-methylthioureido)phenyl]-5-(3-pyridyl)imidazole | 0.71 g | CC=1N=C(NC1C=1C=NC=CC1)C1=C(C=CC=C1)NC(=S)NC | C17H17N5S
